US05736548
A mixture of 2-formylphenoxyacetic acid (9.01 g, 0.05 mol), ethanol (4.6 g), concentrated H2SO4 (0.4 ml) and toluene (40 ml) was heated to reflux with azeotropic removal of water for 1 hour. The reaction mixture was poured into 10% KHCO3 (100 ml), the layers were separated and the aqueous layer was extracted with ether (2×75 ml). The organic layers were combined, and concentrated in vacuo to afford 9.1 g (95%) of 2-(ethoxycarbonylmethoxy)benzaldehyde.

reactant | 2-formylphenoxyacetic acid | 0.05 mol, 9.01 g | C(=O)C1=C(OCC(=O)O)C=CC=C1 | C9H8O4
reactant | ethanol | 4.6 g | C(C)O | C2H6O
reactant | H2SO4 | 0.4 ml | OS(=O)(=O)O | H2O4S
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(ethoxycarbonylmethoxy)benzaldehyde | 9.1 g, 95% | C(C)OC(=O)COC1=C(C=O)C=CC=C1 | C11H12O4
